US04136256
Preparation of 4-(hexadecylamino)benzoylhydrazine
A mixture of 6.59 g. of methyl 4-(hexadecylamino)benzoate, 100 ml. of diethylene glycol, and 45 ml. of 95% hydrazine was heated and stirred in an oil bath at 125° C. under nitrogen for 3 hours and cooled to room temperature. The separated crystals were collected in a suction funnel and washed with ethanol several times and dried in air to give 7.6 g. of white crystals. The crystals were dissolved in 140 ml. of boiling ethanol and recrystallized to give 5.95 g. of fine white crystals, melting point 154°-156° C.

reactant | methyl 4-(hexadecylamino)benzoate | C(CCCCCCCCCCCCCCC)NC1=CC=C(C(=O)OC)C=C1 | C24H41NO2
reactant | hydrazine | NN | H4N2
solvent | diethylene glycol | C(COCCO)O | C4H10O3
product | 4-(hexadecylamino)benzoylhydrazine | C(CCCCCCCCCCCCCCC)NC1=CC=C(C(=O)NN)C=C1 | C23H41N3O
